US07381350B2
2-Acetyl-7-hydroxyfluorene 22.4 g, allyl(4-chlorobutyl) ether 18 g and potassium carbonate 20 g were added to dimethylformamide 150 ml and stirred at 90° C. for 8 hours. The reaction mixture was poured into 6N hydrochloric acid 300 ml to obtain a solid matter. The solid matter was filtered and dried, and then it was recrystallized from ethanol to obtain 22 g of 2-acetyl-7-(allyloxybutyloxy)fluorene. The melting point was 77° C.

reactant | 2-Acetyl-7-hydroxyfluorene | 22.4 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)O | C15H12O2
reactant | allyl(4-chlorobutyl) ether | 18 g | C(C=C)OCCCCCl | C7H13ClO
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6N, 300 ml | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-acetyl-7-(allyloxybutyloxy)fluorene | 22 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)OCCCCOCC=C | C22H24O3
